US08124188B2
Part A: Synthesis of 4-(2-(Methacryloyloxy)ethoxy)-4-oxobutanoic Acid
2-Hydroxyethyl methacrylate (25 g, 0.195 mol) and succinic anhydride (19.5 g, 0.195 mol) were added to dichloromethane (200 mL) under nitrogen. Triethylamine (28.5 ml, 20.72 g, 1.05 equiv.) was then added dropwise over 20 minutes and the reaction mixture was refluxed for 1.5 hours. The reaction mixture was then diluted with dichloromethane (200 mL), washed with 2 M HCl (150 mL) and then finally with brine (100 mL). The organic phase was separated from the aqueous phase, dried (MgSO4 and Na2SO4) and evaporated to dryness, yielding a viscous, colourless liquid (34.9 g, 77.8% yield). 1H NMR (1.89 (s, 3H, CH3), 2.59-2.67 (m, 4H, 2×CH2CO), 4.31 (br.s, 4H, 2×CH2OCO), 5.55 (s, 1H, vinyl CH), 6.08 (s, 1H, vinyl CH). 13C NMR δ 17.96, 28.64, 28.73, 62.15, 62.29, 126.12, 135.79, 167.11, 171.90, 177.73.

reactant | 2-Hydroxyethyl methacrylate | 0.195 mol, 25 g | C(C(=C)C)(=O)OCCO | C6H10O3
reactant | succinic anhydride | 0.195 mol, 19.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | Triethylamine | 28.5 ml, 20.72 g, 1.05 equiv. | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-(2-(Methacryloyloxy)ethoxy)-4-oxobutanoic Acid | 34.9 g, 77.8% yield | C(C(=C)C)(=O)OCCOC(CCC(=O)O)=O | C10H14O6
